datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[CH-:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([CH:10]([N+:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([Br:75])[CH:83]=[CH:82]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][C:73](Cl)=[CH:72]2>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2[C:11](C)=[NH+:12][C:62]3=[C:61]2[CH:72]=[C:73](Cl)[CH:64]=[CH:63]3)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21"
"CC1=CC(C)=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C(C)=C1.C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1>>CC1=CC(C)=C([N+]2=C([C:22](=[CH:21][CH:20]([H:10])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C(C)=C1.C[Si:63]1(C)C[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1.C[C:10](C)=[CH:11][CH2:62][Si:63](C)(C)C>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([C:10](C)(C)[CH+:11][CH2:62][Si:63](C)(C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1=[N:10][CH:61]=[C:62](C)[N-:12]1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>C[N+]1=C([C:22](=[CH:21][CH:20]([N:10]2[C:11](C)=[N:12][C:62](C)=[CH:61]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C(C)(C)C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.CC1=C[C:61]2=[C:62](C=C1C)[NH:12][CH:11]=[N:10]2>>CC1=CC=C([S:32]([N-:21][CH:20]([N:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2C=C(C)C(C)=C3)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].[CH2:10]=[CH:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1>>CC[O:34][C:32]([C:21]([CH:20]([CH2:10][CH+:11][C:62]1=[CH:63][CH:64]=[CH:65][CH:75]=[CH:73]1)[C:41]1=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:92][C:71]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72] 10=20
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]=[CH:11][N-:12]2>>CN1C(=O)N(C)[C:72]2=[C:71](C1=O)[N:10]([CH:20]([C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:51]1=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]1)[CH:11]=[N:12]2 10,11=10,20;12=11,12;20,21=21"
"CO[C:94]1=[CH:93][CH:92]=[C:91]([C-:10]2[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1.C[C:20]1=[CH:21][C:22](=[O:23])CCC1>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([C:20]3(C)CCC[C:22]([O-:23])=[CH:21]3)[C:72](=[O:73])[O:83]C(C)(C)[O:62][C:111]2=[O:112])[CH:102]=[CH:103]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCCC2)C=C1.C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1>>C1=CC=C([CH:10]([CH:11]=[N+:12]2CCCCC2)[CH:20]([CH:21]=[CH:22][N:23]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC2=C(C=C1)[C:81](=[O:82])[N-:10][S:61]2(=[O:62])=[O:72].CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([N:10]3[S:61](=[O:62])(=[O:72])C4=C(C=CC=C4)[C:81]3=[O:82])[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10=20
